US06552188B2
Synthesis of ethyl 2-(4-methylphenyl)isonicotinate
4-Methylphenylboronic acid (161 mg) and ethyl 2-chloroisonicotinate (200 mg) were treated in the same manner as in Preparation Example 1 to obtain the title compound.

reactant | 4-Methylphenylboronic acid | 161 mg | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | ethyl 2-chloroisonicotinate | 200 mg | ClC=1C=C(C(=O)OCC)C=CN1 | C8H8ClNO2
product | ethyl 2-(4-methylphenyl)isonicotinate | CC1=CC=C(C=C1)C=1C=C(C(=O)OCC)C=CN1 | C15H15NO2
